### PR TITLE
feat: product of approximate subgroups

### LINKED ISSUE #40: Product of approximate subgroups
If $A_1, \dots, A_n$ is a family of $K_1$-, ..., $K_n$-approximate subgroups, then $A_1 \times \dots \times A_n$ is a $K_1 \dots K_n$-approximate subgroup.

This is in [Remark 2.6 in the lecture notes](https://sites.google.com/view/simonmachado/teaching) and [`IsApproximateSubgroup.pi` in the Lean code](https://yaeldillies.github.io/LeanCamCombi/docs/LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.html#IsApproximateSubgroup.pi).

### PR DESCRIPTION
**Pull request by guojing0**
This PR closes #40: Product of approximate subgroups.

Developed with the help of Codex.

### CODE REVIEW

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 1]
```diff
@@ -26,7 +26,23 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
     · calc
         #(Fintype.piFinset F) = ∏ i, (#(F i) : ℝ) := by simp
         _ ≤ ∏ i, K i := by gcongr; exact hF _
-    · sorry
+    · intro x hx
+      rw [pow_two, Set.mem_mul] at hx
+      rcases hx with ⟨y, hy, z, hz, rfl⟩
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
    · simp_rw [pow_two]
      rintro _ ⟨x, hx, y, hy, rfl⟩
```

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 2]
```diff
@@ -26,7 +26,22 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
     · calc
         #(Fintype.piFinset F) = ∏ i, (#(F i) : ℝ) := by simp
         _ ≤ ∏ i, K i := by gcongr; exact hF _
-    · sorry
+    · simp_rw [pow_two]
+      rintro _ ⟨x, hx, y, hy, rfl⟩
+      have hxA : ∀ i, x i ∈ A i := by simpa [Set.mem_univ_pi] using hx
+      have hyA : ∀ i, y i ∈ A i := by simpa [Set.mem_univ_pi] using hy
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
    · simp_rw [pow_two, Set.mem_mul, Set.mem_univ_pi]
      rintro _ ⟨x, hx, y, hy, rfl⟩
```

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 3]
```diff
@@ -26,7 +26,21 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
...
-    · sorry
+    · rw [Set.subset_def]
+      simp_rw [pow_two, Set.mem_mul, Set.mem_univ_pi]
+      rintro _ ⟨x, hx, y, hy, rfl⟩
+      have hxycoord : ∀ i, x i * y i ∈ (F i : Set (G i)) • A i := by
+        intro i
+        refine hFS i <| by
+          have hxy : x i * y i ∈ A i * A i := ⟨x i, hx i, y i, hy i, rfl⟩
+          simpa [pow_two] using hxy
+      choose f hfF a ha hfa using fun i ↦ Set.mem_smul.mp (hxycoord i)
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
      choose f hfF a ha hfa using fun i ↦ hFS i <| by simpa [pow_two] using mul_mem_mul (hx i) (hy i)
```

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 4]
```diff
@@ -26,7 +26,21 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
...
+      refine Set.mem_smul.mpr ?_
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
```

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 5]
```diff
@@ -26,7 +26,21 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
...
+      refine ⟨f, ?_, a, ?_, ?_⟩
+      · simpa [Fintype.mem_piFinset] using hfF
+      · simpa [Set.mem_univ_pi] using ha
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
      refine ⟨f, by simpa using hfF, a, ?_, hy simpa using ha⟩
```

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 6]
```diff
@@ -26,7 +26,21 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
...
+      · ext i
+        simpa [Pi.smul_apply, smul_eq_mul] using hfa i
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
      ext i
      simpa using hfa i
```

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 7]
```diff
@@ -26,7 +26,14 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
     · calc
         #(Fintype.piFinset F) = ∏ i, (#(F i) : ℝ) := by simp
         _ ≤ ∏ i, K i := by gcongr; exact hF _
-    · sorry
+    · rw [Set.subset_def]
+      simp_rw [pow_two, Set.mem_mul, Set.mem_univ_pi]
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
    · simp_rw [Set.subset_def, pow_two, Set.mem_mul, Set.mem_univ_pi]
```

File: LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean [hunk 8]
```diff
@@ -26,7 +26,14 @@ lemma pi {ι : Type*} {G : ι → Type*} [Fintype ι] [∀ i, Group (G i)] {A :
...
+      rintro _ ⟨x, hx, y, hy, rfl⟩
+      choose f hfF a ha hfa using fun i ↦ hFS i <| by
+        simpa [pow_two] using Set.mul_mem_mul (hx i) (hy i)
+      refine ⟨f, by simpa using hfF, a, by simpa using ha, ?_⟩
+      ext i
+      simpa [Pi.smul_apply, smul_eq_mul] using hfa i
```
Comment (YaelDillies) [inline LeanCamCombi/Mathlib/Combinatorics/Additive/ApproximateSubgroup.lean]:
```suggestion
      simpa using hfa i
```

**Review by YaelDillies — APPROVED** [review]
Thanks! Looking forward to the next one 😄

**Comment by guojing0** [comment]
> Thanks! Looking forward to the next one 😄 

Thank you :) I think I now have a better idea what to look for in terms of code quality/style.
